US07279481B2
2-Methyl-5-(1-piperazinyl)quinoline
To a solution of 1,1-dimethylethyl 4-(2-methyl-5-quinolinyl)-1-piperazinecarboxylate in 2-propanol (3 vol) was added dropwise hydrochloric acid (37%, 3 vol). The mixture was stirred at 40° C. for 1.5 hours then concentrated. Water (30 vol) was added and the solution was extracted with ethyl acetate (3×20 vol). The aqueous layer was basified with an aqueous sodium carbonate solution then extracted with dichloromethane (5×40 vol). The combined organic extracts were dried and evaporated to give the title compound as an off-white solid (80% th, 2 steps).

reactant | 1,1-dimethylethyl 4-(2-methyl-5-quinolinyl)-1-piperazinecarboxylate | CC1=NC2=CC=CC(=C2C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C19H25N3O2
reactant | hydrochloric acid | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
product | 2-Methyl-5-(1-piperazinyl)quinoline | 80% | CC1=NC2=CC=CC(=C2C=C1)N1CCNCC1 | C14H17N3
